datasets/10k_Mayr_OG.csv
SMILES Labelled
CC1=CC=C([P:10](C2=CC=C(C)C=C2)C2=CC=C(C)C=C2)C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([P+:10](C2=CC=C(C)C=C2)(C2=CC=C(C)C=C2)C2=CC=C(C)C=C2)([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC[Si:63](CC)(CC)[CH2:62][CH2:11][H:10].COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1>>CC[Si:63](CC)(CC)[CH2:62][CH2+:11].COC1=CC=[N+](C[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[C:22](C)[O-:23])C=C1 10,11=10,20;20,21=21,22;22,23=23"
"COC1=CC=C(/[C:11](=[CH:10]/[S+:61](C)C)[O-:12])C=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](Br)[C:24](=[O:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1>>COC1=CC=C([C:11]([CH:10]([CH:20]([C:21]2=[CH:22][C:23](Br)=[C:24]([O-:25])[C:33](Br)=[CH:32]2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[S+:61](C)C)=[O:12])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.C[C:11]1=[N:10][CH:61]=[CH:62][NH:12]1>>CC1=CC=C([S:32]([N-:21][CH:20]([N:10]2[C:11](C)=[NH+:12][CH:62]=[CH:61]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2.C[C:61]([S-:10])=[O:62]>>CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH:20]([S:10][C:61](C)=[O:62])[C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2 10=20
"C1=CC=C(/[CH:10]=[C:11](/C2=CC=CC=C2)[O-:12])C=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10](C2=CC=CC=C2)[C:11](C2=CC=CC=C2)=[O:12])[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
"Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33].[CH:10]1=[C:11]([O-:12])[NH:82][C:73](=[O:74])[NH:82][C:61]1=[O:62]>>Cl[C:20]1([CH:10]2[C:11](=[O:12])[NH:82][C:73](=[O:74])[NH:82][C:61]2=[O:62])[C:21](Cl)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1[CH:20]=[CH:21][C:22](=[O:23])[O:33]1.C[C:11]1=[CH:10][CH:61]=[C:62](C)[NH:12]1>>C[C:11]1=[NH+:12][C:62](C)=[CH:61][CH:10]1[CH:20]1C[O:33][C:22]([O-:23])=[CH:21]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25])=[O:32].CC[O:72]/[C:11](=[CH:10]/[S+:61](C)C)[O-:12]>>CC[O:33][C:31]([CH:20]([CH:10]([C:11](=[O:12])[O:72]CC)[S+:61](C)C)[C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)[N:61]1[C-:10]=[N+:71](C)[CH:63]=[CH:62]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](Br)[C:24](=[O:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10]2=[N+:71](C)[CH:63]=[CH:62][N:61]2C(C)(C)C)[C:21]2=[CH:22][C:23](Br)=[C:24]([O-:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC1=CC=C([S:32]([N:21]=[C:20]=[O:52])(=[O:33])=[O:43])C=C1.CC[O:82][C:71]([C-:10]1CCC[C:62]1=[O:61])=[O:72]>>CC[O:82][C:71]([C:10]1([C:20]([N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:43])=[O:52])CCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21"
CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.O=C(C1=CC=CC=C1)[CH-:10][N+:61]1=[CH:62][CH:63]=[CH:64][C:71]2=[C:72]1C=CC=C2>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10](C(=O)C2=CC=CC=C2)[N+:61]2=[CH:62][CH:63]=[CH:64][C:71]3=[C:72]2C=CC=C3)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.[CH:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:83]=[CH:82]1>>C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH:20]([CH:10]([C:11]#[N:12])[C:61]2=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:83]=[CH:82]2)[C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1 10,11=10,20;12=11,12"
"C1C[C:20](=[O:21])CCS1.CC[O:62]/[C:11](=[CH:10]/[C:71]#[N:72])[O-:12]>>CC[O:62][C:11]([CH:10]([C:20]1([O-:21])CCSCC1)[C:71]#[N:72])=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CC[O:82][C:71]([C-:10](C(C)C)[C:61](=[O:62])[O:112]CC)=[O:72].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CC[O:82][C:71]([C:10](C(C)C)([CH:20]([C:21](C[N+]1=CC=C(N(C)C)C=C1)=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]1)[C:61](=[O:62])[O:112]CC)=[O:72] 10=20;20,21=21,22;22,23=23"
